US07115750B1
6-Hydroxy-2-(2-piperidinoethyl)tetralin
6-Methoxy-2-(2-piperidinoethyl)tetralin hydrochloride (9.3 g) was added to 48% hydrobromic acid (50 ml), which was refluxed with heating for 4 hours. After the reaction mixture was concentrated under reduced pressure, saturated sodium bicarbonate solution was added to the residue to make the water layer alkaline, and the water layer was extracted using a mixed solution of THF and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The resulting crystal was washed with IPE to give the titled compound (5.8 g).

reactant | 6-Methoxy-2-(2-piperidinoethyl)tetralin hydrochloride | 9.3 g | Cl.COC=1C=C2CCC(CC2=CC1)CCN1CCCCC1
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 6-Hydroxy-2-(2-piperidinoethyl)tetralin | 5.8 g | OC=1C=C2CCC(CC2=CC1)CCN1CCCCC1 | C17H25NO
